Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / Motrin / baclofen
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year old male with hx of HTN, T2DM, diabetic 
neuropathy/retinopathy, CVA, latent TB, HLD and ESRD on ___ HD 
who presented to the ___ from ___ for change in mental status & 
lethargy. 

Pt living in ___ due to R femur fx after a fall. His HD catheter 
was exchanged yesterday here at ___ and his last dialysis prior 
to admission was ___. He was apparently in his usual state of 
health till yesterday, when he was noted to be more confused and 
less responsive. He was worse this AM and so he was brought to 
the ___. His FSBG was found to be 150 (has previous episodes of
AMS ISO hypoglycemia). Per ___ note, patient denied cough, 
congestion, sob, cp, abd pain, n, v, diarrhea. Pt is anuric at 
baseline.  

Of note, on his last admission in ___, patient had waxing and 
weaning mentation. He had extensive work-up that was neg and his 
symptoms were ultimately attributed to hospital delirium. 

In the ___:
-Initial VS were notable for; 
T 36.4, HR 78, BP 180/82 RR 16 ___ 96 on RA
 
-Examination notable for;
Gen: NAD
Neuro: Cranial nerves II -XII grossly intact, no nystagmus, no 
clonus, moves all 4 extremity, AAOx3 though called ___ RN to 
verify and she reported that during her shift, pt has was AOx0 
with waxing and weaning mentation

-Labs were notable for;
K 7-->5.9 after dialysis, Cr 9.8, ca 9.3, Mg 1.9, P 5.7
lactate 1.5
Flu A/B neg
Trop 0.05, CK-MB 2
Hg 9.3-->8, WBC 11.5-->9.4

-ECG demonstrated: Prolonged PR interval

-STUDIES:
CT HEAD W/O CONTRAST
No acute intracranial abnormality. 

CXR
No acute intrathoracic process. 

-Patient was given;
Dextrose
calcium gluconate
albuterol neb
10 u Insulin

-Renal was consulted; recommended emergent HD which was 
undertaken in the ___.

Vital signs on transfer were notable for;

T 97.7, HR 71 BP 157/62 RR 16 O2 sat 99% RA 
 
Upon arrival to the floor, patient is minimally interactive. 
Opens his eyes to voice but unable to keep them open for more 
than 10secs or follow commands.
 
Past Medical History:
1. Diabetes type 2 complicated by peripheral neuropathy and 
prior retinopathy to his right eye.
2. Poorly controlled hypertension with ICU admission ___
for dyspnea thought to be ___ flash pulmonary edema in the
setting of hypertensive urgency (systolic BP 230s)
3. History of positive PPD with positive QuantiFERON Gold in our
system in ___.  He reports prior treatment with isoniazid at
___ in the 1990s. Per ID notes is currently on
treatment for latent TB infection (INH/pyridoxine started ___.
4. He has a history of TIA ___, no residual deficits
5. ESRD on HD MWF
6. Neuropathic pain  
 
Social History:
___
Family History:
Father ___ (deceased)
Mother DM and ___ (required dialysis, not deceased).
Brother with DM.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
===================================
VS: T 97.5 BP 160/67 HR 72 RR 16 O2 100% on RA
Neuro: opens eyes to voice but unable to follow commands, no 
rigidity in UE bilaterally
HEENT: No scleral icterus
Cardiovascular: Normal S1, S2, regular rate and rhythm, no 
murmurs/rubs/gallops
Pulmonary: Clear to auscultation bilaterally in the frontal 
fields
Abdominal: Soft, nontender, nondistended
Extremities: No lower leg edema
Skin: No rashes noted
ACCESS: R IJ tunneled HD catheter, access site looks c/d/i

DISCHARGE PHYSICAL EXAMINATION:
===================================
98.9F PO BP: 167/68 HR: 68 RR: 18 O2 sat: 98% O2 RA 
Gen: Lying in bed comfortably in no acute distress, awake, alert
HEENT: No scleral icterus
Cardiovascular: RRR, no r/m/g
Pulmonary: CTAB, no r/r/w
Abdominal: Soft, nontender, nondistended
Extremities: No lower leg edema
Skin: No rashes noted
Neuro: Opens eyes to voice, conversant. Oriented to person, ___ 
___, circumstances of his admission. Normal 
speech. No asterixis.
ACCESS: R IJ tunneled HD catheter, access site looks c/d/i
 
Pertinent Results:
ADMISSION LABS
===========================
___ 10:00AM BLOOD WBC-11.5* RBC-3.16* Hgb-9.3* Hct-29.3* 
MCV-93 MCH-29.4 MCHC-31.7* RDW-15.4 RDWSD-51.8* Plt ___
___ 10:00AM BLOOD Neuts-67.6 Lymphs-18.4* Monos-7.1 Eos-5.7 
Baso-0.6 Im ___ AbsNeut-7.79* AbsLymp-2.12 AbsMono-0.82* 
AbsEos-0.66* AbsBaso-0.07
___ 10:00AM BLOOD Glucose-126* UreaN-88* Creat-9.4*# Na-135 
K-7.0* Cl-97 HCO3-21* AnGap-17
___ 10:00AM BLOOD ALT-<5 AST-20 CK(CPK)-57 AlkPhos-165* 
TotBili-0.4
___ 10:00AM BLOOD Lipase-24
___ 10:00AM BLOOD CK-MB-2
___ 10:00AM BLOOD cTropnT-0.05*
___ 10:00AM BLOOD Albumin-3.6 Calcium-9.3 Phos-5.7* Mg-1.9

RELEVANT LABS
===========================
___ 01:56PM BLOOD WBC-9.4 RBC-2.69* Hgb-8.0* Hct-25.1* 
MCV-93 MCH-29.7 MCHC-31.9* RDW-15.7* RDWSD-53.0* Plt ___
___ 06:17AM BLOOD WBC-16.2* RBC-3.16* Hgb-9.4* Hct-29.3* 
MCV-93 MCH-29.7 MCHC-32.1 RDW-15.4 RDWSD-52.4* Plt ___
___ 06:52AM BLOOD WBC-8.9 RBC-2.90* Hgb-8.6* Hct-26.9* 
MCV-93 MCH-29.7 MCHC-32.0 RDW-15.2 RDWSD-52.1* Plt ___
___ 07:24AM BLOOD WBC-7.4 RBC-2.99* Hgb-8.9* Hct-28.6* 
MCV-96 MCH-29.8 MCHC-31.1* RDW-15.3 RDWSD-52.9* Plt ___

RELEVANT IMAGING
===========================
___ CXR PA/LAT
No acute intrathoracic process.

___ CT HEAD WITHOUT CONTRAST
No acute intracranial abnormality.

___ CXR AP
No evidence of pneumonia or pulmonary edema.

RELEVANT MICRO
===========================
___ BLOOD CULTURE: NO GROWTH
___ BLOOD CULTURES X2: NO GROWTH

DISCHARGE LABS
===========================
___ 06:49AM BLOOD WBC-10.3* RBC-2.70* Hgb-8.0* Hct-24.9* 
MCV-92 MCH-29.6 MCHC-32.1 RDW-14.7 RDWSD-49.6* Plt ___
___ 06:49AM BLOOD Glucose-107* UreaN-68* Creat-8.9*# Na-138 
K-4.8 Cl-95* HCO3-26 AnGap-17
___ 06:49AM BLOOD Calcium-8.6 Phos-6.0* Mg-2.1
 
Brief Hospital Course:
======================
PATIENT SUMMARY
======================
___, ___, with h/o hypertension, T2DM with diabetic 
neuropathy/retinopathy, prior lacunar infarcts, latent TB, HLD, 
recent right femur fracture, and ESRD on ___ HD who presented to 
the ___ from ___ with confusion and lethargy. The etiology of his 
presentation was unclear, though felt to be most consistent with 
toxic-metabolic encephalopathy secondary to an episode of 
hypoglycemia earlier in the day of admission when he was 
undergoing HD catheter exchange, when his FSBG dropped to 36. 
His mental status self-resolved. His hospital course was c/b an 
episode of hypoglycemia, with FSBG 47, and his insulin regimen 
was downtitrated because of this.

======================
TRANSITIONAL ISSUES
======================
[] Insulin: Please continue to monitor fingerstick blood glucose 
and adjust his insulin dosing. His long-acting here was stopped 
because of severe hypoglycemia (see below); the patient's blood 
sugar dropped to 47 around 6am after having received 10u 
glargine at night and no Humalog. He likely does not need 
significant amounts of long-acting, if any at all.
[] Fingerstick: Please continue to check fingerstick blood 
glucose with every meal and at nighttime (QACHS).
[] For future episodes of hyperkalemia, please consider giving 
the patient higher amounts of dextrose than typical for each 
unit of insulin used, as the patient may be quite sensitive to 
insulin, or alternative methods of lowering potassium.
[] Gabapentin: This was stopped on admission as the patient was 
somnolent/confused. The patient did not complain of significant 
neuropathy this admission. If appropriate, it would be 
reasonable to restart gabapentin at small doses.

======================
ACUTE ISSUES:
======================
#Encephalopthy
On initial presentation, was somnolent and barely arousable to 
voice, as well as disoriented and confused. Exam also notable 
for dysarthria and significant asterixis without other 
neurological findings, including bulbar weakness. The etiology 
was felt to be most consistent with toxic-metabolic 
encephalopathy. He was noted to be hypoglycemic this admission 
while on 10u glargine (see below) and was on 18u glargine at 
home. He may have been hypoglycemic at times prior which 
triggered his confusion and lethargy. Additionally, in the ___, 
he became hypoglycemic to FSBG 36 after receiving 10u regular 
insulin for hyperkalemia, which may have exacerbated his initial 
presentation. Given his chronic illnesses, including ESRD with 
HD, chronic white matter disease with prior lacunar infarct, he 
may be significantly more prone to small insults. Infectious 
workup was negative. A review of his medications showed only one 
potential contributor, gabapentin, which was stopped. Concern 
for PRES and seizures were low. 

#T2DM
#Hypoglycemia
Was on 18u glargine at his rehab. Was put on 10u glargine on 
admission. On ___ early morning, he felt diaphoretic and 
cold/clammy, and was found to have FSBG 47 after having received 
only 10u glargine without any sliding scale the night prior. 
Glargine was stopped, and his Humalog sliding scale was 
decreased. He may benefit from ongoing adjustment of his insulin 
sliding scale, keeping in mind that he is relatively sensitive 
to insulin.

#Leukocytosis
One isolated leukocytosis without fevers or other evidence of 
infection. Self-resolved. Suspect may have been secondary to 
aspiration. 

#Hypertension
Noted to have BPs in the 200s/60s on HD2, likely in the setting 
of missing medications. Asymptomatic. Resolved once patient was 
put back on home medications with well-controlled BPs.

#Right femur fracture
Closed reduction and percutaneous pinning on ___. Had follow up 
with ortho on ___ where he was noted to be doing well. He was 
supposed to follow up with Ortho on ___ but was hospitalized. 
The inpatient Ortho consult service saw the patient, and plain 
films were obtained. They noted that he is overall progressing 
well.

======================
CHRONIC ISSUES
======================
#Elevated troponin
EKG with no signs of ischemia and CK MB normal. Patient has 
history of elevated troponins since ___. Likely in the setting 
on ESRD.

#History of lacunar stroke
#HLD
Put back on aspirin 81mg and increased atorvastatin from 40mg to 
80mg.

# Latent TB
Continued isoniazid ___ mg QD and pyridoxine 50 mg QD.

#CODE STATUS: Full code presumed
#CONTACT: ___ (Wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO QHS 
2. Isoniazid ___ mg PO DAILY 
3. CARVedilol 25 mg PO BID 
4. NIFEdipine (Extended Release) 90 mg PO Frequency is Unknown 
5. Atorvastatin 40 mg PO QPM 
6. Glargine 18 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Calcium Acetate 667 mg PO TID W/MEALS 
8. Pyridoxine 50 mg PO DAILY 
9. lidocaine 4 % topical ONCE 
10. NIFEdipine (Extended Release) 30 mg PO Frequency is Unknown 
11. Omeprazole 20 mg PO BID 
12. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  
3.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
4.  Nephrocaps 1 CAP PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Calcium Acetate 1334 mg PO TID W/MEALS  
7.  Humalog 2 Units Lunch
Insulin SC Sliding Scale using HUM Insulin 
8.  NIFEdipine (Extended Release) 90 mg PO DAILY 
On Non-Hemodialysis days (___).  
9.  NIFEdipine (Extended Release) 30 mg PO DAILY 
On hemodialysis days (___)  
10.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
11.  CARVedilol 25 mg PO BID  
12.  Isoniazid ___ mg PO DAILY  
13.  lidocaine 4 % topical ONCE  
14.  Omeprazole 20 mg PO BID  
15.  Pyridoxine 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES 
# Acute toxic-metabolic encephalopathy
# DM type II uncontrolled c/b hypoglycemia

SECONDARY DIAGNOSES
# ESRD on hemodialysis
# Prior TIA
# Hypertension
# Latent MTB
# Right femur fracture s/p ORIF ___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure taking care of you at the ___ 
___!

WHAT BROUGHT YOU TO THE HOSPITAL?
- You were found to be confused and very lethargic at your 
rehab.

WHAT HAPPENED IN THE HOSPITAL?
- We obtained multiple tests, including blood work, urine 
studies, X-rays, and a CT scan of the head, to determine why you 
were confused. These tests did not show a reason why.
- We suspect the most likely reason is your chronic illnesses 
put you at much higher risk of being confused, and your blood 
sugar was also low just before you came in to the Emergency 
Department, as you were having your HD catheter exchanged. This 
may have caused your lethargy and confusion.
- Your confusion and lethargy self-resolved.
- Your blood sugar was again found to be low during this 
hospitalization. We further decreased your insulin dosing to 
manage this.

WHAT SHOULD YOU DO ONCE YOU LEAVE THE HOSPITAL?
- Please take your medications as prescribed and attend your 
doctor's appointment.
- Please continue to monitor your blood sugar. Your rehab 
doctors ___ help manage your insulin dosing.

We wish you all the best!
Your ___ Care Team
 
Followup Instructions:
___